US07851493B2
To a solution of 190 mg of trifluoroethanol in 1.16 mL of tetrahydrofuran at 5° C. was slowly added 2.2 mL of a molar solution of potassium tert-butoxide in tert-butanol. After stirring at 5° C. for 30 minutes, the resulting solution was slowly added to a solution of 890 mg of 2,5-difluoro-4-[2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazol-5-ylmethoxy]-benzonitrile in 3.1 mL of tetrahydrofuran at −60° C. The resulting mixture was stirred overnight allowing the temperature to warm up to room temperature. It was then poured into water and extracted with dichloromethane. The organic extracts were dried over magnesium sulfate, filtered and concentrated under reduced pressure. The crude product was triturated with diisopropyl ether and filtered to give 410 mg of 5-fluoro-2-(2,2,2-trifluoro-ethoxy)-4-[2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazol-5-ylmethoxy]-benzonitrile as a white solid.

reactant | trifluoroethanol | 190 mg | C(C(F)(F)F)O | C2H3F3O
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | 2,5-difluoro-4-[2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazol-5-ylmethoxy]-benzonitrile | 890 mg | FC1=C(C#N)C=C(C(=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CN1CCC(CC1)C(F)(F)F)F | C25H19F8N3OS
reactant | water | O | H2O
solvent | tetrahydrofuran | 1.16 mL | O1CCCC1 | C4H8O
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
solvent | tetrahydrofuran | 3.1 mL | O1CCCC1 | C4H8O
product | 5-fluoro-2-(2,2,2-trifluoro-ethoxy)-4-[2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazol-5-ylmethoxy]-benzonitrile | 410 mg | FC=1C(=CC(=C(C#N)C1)OCC(F)(F)F)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CN1CCC(CC1)C(F)(F)F | C27H21F10N3O2S
